US04777182
Alternatively, 4 g of 4-(2-imidazolinyl)amino-benzoic acid hydrochloride, 4.67 g of 6-amidino-2-naphthol methanesulfonate and 0.2 g of DMAP were dissolved in 60 ml of anhydrous pyridine, 5.13 g of DCC was added to the solution and then the reaction mixture was treated as described above, via a carbonate salt, to yield 2.35 g of 6-amidino-2-naphthyl 4-(2-imidazolinyl)amino-benzoate dihydrochloride.

reactant | 4-(2-imidazolinyl)amino-benzoic acid hydrochloride | 4 g | Cl.N1(C=NCC1)NC1=CC=C(C(=O)O)C=C1
reactant | 6-amidino-2-naphthol methanesulfonate | 4.67 g | CS(=O)(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N | C12H12N2O3S
reactant | DCC | 5.13 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 0.2 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
product | 6-amidino-2-naphthyl 4-(2-imidazolinyl)amino-benzoate dihydrochloride | 2.35 g | Cl.Cl.N1(C=NCC1)NC1=CC=C(C(=O)OC2=CC3=CC=C(C=C3C=C2)C(N)=N)C=C1 | InChI=1S/C21H19N5O2.2ClH/c22-20(23)17-2-1-16-12-19(8-5-15(16)11-17)28-21(27)14-3-6-18(7-4-14)25-26-10-9-24-13-26;;/h1-8,11-13,25H,9-10H2,(H3,22,23);2*1H
